US07109229B2
(b) 7-[2-(tert-Butyl-dimethyl-silanyloxy)-ethyl]-1H-indole
A solution of tert-butyl-dimethyl-[2-(2-nitro-phenyl)-ethoxy]-silane (5.0 g, 17.76 mmol) in THF (74 mL) was cooled to −65° C. and a 1.0 M solution of vinyl magnesium bromide in THF (53 mL, 53 mmol) was introduced while maintaining a temperature of <−40° C. The reaction was stirred for 15 minutes at −40° C., additional vinyl magnesium bromide (9 mL, 9 mmol) was added and the reaction was stirred at −45 to −40° C. for 25 minutes. The reaction was poured into saturated aq ammonium chloride and diluted with EtOAc (300 mL). The two layers were separated and the organic layer was dried (MgSO4), filtered and concentrated. Flash chromatography (95%hexane/EtOAc) gave the title compound (1.47 g, 30%) as a transparent oil. 1H NMR (400 MHz, DMSO-d6) −0.11 (s, 6H), 0.80 (s, 9H), 3.03 (t, J=6.8 Hz, 2H), 3.85 (t, J=6.8 Hz, 2H), 6.39 (dd, J=1.2, 3.2 Hz, 1H), 6.86–6.92 (m, 2H), 7.28 (dd, J=3, 3 Hz, 1H), 7.36 (dd, J=4.8, 4.8 Hz, 1H), 11.02 (br s, 1H). MS (electrospray, m/z) 276 (M++1).

reactant | tert-butyl-dimethyl-[2-(2-nitro-phenyl)-ethoxy]-silane | 17.76 mmol, 5.0 g | C(C)(C)(C)[Si](OCCC1=C(C=CC=C1)[N+](=O)[O-])(C)C | C14H23NO3Si
reactant | vinyl magnesium bromide | C(=C)[Mg]Br
reactant | vinyl magnesium bromide | 9 mmol, 9 mL | C(=C)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 74 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
solvent | THF | 53 mmol, 53 mL | C1CCOC1 | C4H8O
product | 7-[2-(tert-Butyl-dimethyl-silanyloxy)-ethyl]-1H-indole | 1.47 g, 30% | C(C)(C)(C)[Si](OCCC=1C=CC=C2C=CNC12)(C)C | C16H25NOSi
